US04877787
Synthesis of 2-tert.-butyl-4-bromo-5-(4-tert.-butylbenzylthio)-3(2H)-pyridazinone (Compound No. 139)
To a dimethylformamide solution of 4.4 g of 2-tert.-butyl-4-bromo-5-mercapto-3(2H)-pyridazinone and 4.7 g of 4-tert.-butylbenzyl bromide was added 3.5 g of sodium carbonate. The resulting reaction liquid was stirred at 80° C. for 4 hours, allowed to cool to room temperature, incorporated with water and extracted with benzene. The benzene layer was washed with 3% aqueous solution of sodium hydroxide and then with water, dried and then freed of benzene by distillation to give yellowish brown solid. The solid was recrystallized from a mixed solvent of benzene and n-hexane to obtain white crystals (yield: 64%).

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2-tert.-butyl-4-bromo-5-mercapto-3(2H)-pyridazinone | 4.4 g | C(C)(C)(C)N1N=CC(=C(C1=O)Br)S | C8H11BrN2OS
reactant | 4-tert.-butylbenzyl bromide | 4.7 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | sodium carbonate | 3.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-tert.-butyl-4-bromo-5-(4-tert.-butylbenzylthio)-3(2H)-pyridazinone | yield: 64% | C(C)(C)(C)N1N=CC(=C(C1=O)Br)SCC1=CC=C(C=C1)C(C)(C)C | C19H25BrN2OS
